US07294622B2
a. Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(4-bromo-2-thienyl)acrylate (96a)
The title compound was prepared according to the method of Example 94a, employing N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester (10.0 g, 30.2 mmol), 4-bromothiophene-2-carbaldehyde (7.52 g, 39.4 mmol), and DBU (5.34 g, 35.1 mmol) in dry dichloromethane (200 mL). Recrystallization from 4:1 (v/v) hexane/ethyl acetate afforded the title compound (8.13 g, 20.5 mmol, 68%) as a white solid. 1H NMR (300 MHz, d6-DMSO) δ3.71 (s, 3H), 5.12 (bs, 2H), 7.10-7.51 (bm, 5H), 7.59 (s, 1H), 7.71 (s, 1H), 7.87 (s, 1H), 8.98 (bs, 1H). MS APCI, m/z=354, 352. LC/MS: 2.53 min.

reactant | N-(benzyloxycarbonyl)-α-phosphonoglycine trimethyl ester | 30.2 mmol, 10.0 g | COC(=O)C(NC(=O)OCC1=CC=CC=C1)P(=O)(OC)OC | C13H18NO7P
reactant | 4-bromothiophene-2-carbaldehyde | 39.4 mmol, 7.52 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | DBU | 35.1 mmol, 5.34 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Methyl (2Z)-2-{[(benzyloxy)carbonyl]amino}-3-(4-bromo-2-thienyl)acrylate | 20.5 mmol, 8.13 g, 68% | C(C1=CC=CC=C1)OC(=O)N\C(\C(=O)OC)=C/C=1SC=C(C1)Br | C16H14BrNO4S
